US08105807B2
Preparation of 3-(2-oxocyclohexyl)-2-ureidopropanoic acid
Methyl 2-acetamido-3-(2-oxocyclohexyl)propanoate (15.0 g, 62.2 mmol, prepared as described in EP 84164) was dissolved in 30 mL 6N HCl aq. (180 mmol) and heated at 90-95° C. for 4 h. The resulting reaction mixture was cooled in an ice-bath and neutralized to pH 7.0 with 23 mL 10N NaOH aq. (230 mmol), maintaining the temperature at 15-25° C. Then, potassium cyanate (4.8 g, 69 mmol) was added and the mixture was heated to 60° C. After 3 h, the solution was cooled to 50° C. Decolorizing carbon (1.0 g, Norit SX) was added, stirred for 0.5 h and the carbon was filtered off under suction. The remaining solution (pH 8.9) was cooled in an ice-bath and acidified with 6N HCl aq., maintaining the temperature below 10° C. At pH 4.5, the solution was seeded with 0.1 g product. At pH 1.8, the slurry was stirred for 0.5 h and then the product was collected on a filter under suction. The off-white crystals were dried under vacuum. Weight 4.20 g, approximately 30% yield. 1H NMR: (DMSO-d6, 300 MHz): δ 12.45 (br s, 1H), 6.22 (dd, 1H), 5.60 (br s, 2H), 4.19-3.95 (m, 1H), 2.45-1.15 (m, 11H).

reactant | Methyl 2-acetamido-3-(2-oxocyclohexyl)propanoate | 62.2 mmol, 15.0 g | C(C)(=O)NC(C(=O)OC)CC1C(CCCC1)=O | C12H19NO4
reactant | HCl | 180 mmol, 6N, 30 mL | Cl | ClH
reactant | NaOH | 230 mmol, 10N, 23 mL | [OH-].[Na+]
reactant | potassium cyanate | 69 mmol, 4.8 g | [O-]C#N.[K+]
product | 3-(2-oxocyclohexyl)-2-ureidopropanoic acid | approximately 30% yield | O=C1C(CCCC1)CC(C(=O)O)NC(=O)N | C10H16N2O4
